US06927228B2
(c) 1-[4′-(2,4-Dioxothiazolidin-5-ylidene-methyl)biphenyl-3-ylmethyl]-3-phenylurea
In a manner similar to that of Example 1(f), by reacting 2.1 g (6.4 mmol) of 1-(4′-formylbiphenyl-3-ylmethyl)-3-phenylurea with 750 mg (6.4 mmol) of 2,4-thiazolidine dione, 1.4 g (53%) of the expected product are obtained.

reactant | 1-(4′-formylbiphenyl-3-ylmethyl)-3-phenylurea | 6.4 mmol, 2.1 g | C(=O)C1=CC=C(C=C1)C1=CC(=CC=C1)CNC(=O)NC1=CC=CC=C1 | C21H18N2O2
reactant | 2,4-thiazolidine dione | 6.4 mmol, 750 mg | S1C(NC(C1)=O)=O | C3H3NO2S
product | 1-[4′-(2,4-Dioxothiazolidin-5-ylidene-methyl)biphenyl-3-ylmethyl]-3-phenylurea | 1.4 g, 53% | O=C1SC(C(N1)=O)=CC1=CC=C(C=C1)C1=CC(=CC=C1)CNC(=O)NC1=CC=CC=C1 | C24H19N3O3S
